US08022222B2
Step E: Preparation of 1-(4-(4-methoxybenzylthio)-5-bromopyridin-2-yl)thiourea:
1-(4-(4-methoxybenzylthio)-5-bromopyridin-2-yl)-3-benzoylthiourea (8.50 g, 17.4 mmol) was suspended in THF (150 mL). NaOH (116 ml, 348 mmol) was added, and the reaction was stirred at 65° C. overnight. The solution was cooled and filtered, and the solids were washed with cold water. The solids were then triturated in EtOH and filtered to provide the desired product (5.3 g, 79% yield) as a tan solid.

reactant | 1-(4-(4-methoxybenzylthio)-5-bromopyridin-2-yl)-3-benzoylthiourea | 17.4 mmol, 8.50 g | COC1=CC=C(CSC2=CC(=NC=C2Br)NC(=S)NC(C2=CC=CC=C2)=O)C=C1 | C21H18BrN3O2S2
reactant | NaOH | 348 mmol, 116 ml | [OH-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-(4-(4-methoxybenzylthio)-5-bromopyridin-2-yl)thiourea | 5.3 g, 79% yield | COC1=CC=C(CSC2=CC(=NC=C2Br)NC(=S)N)C=C1 | C14H14BrN3OS2
